US06034246
2-(4'-amino-3'-cyanophenyl)benzothiazole )DF230)
2-(4'-amino-3'-iodophenyl)benzothiazole (0.123 g, 0.35 mmol) was treated with copper (I) cyanide (63 mg, 0.7 mmol) in DMF according to procedure for preparation of 2-(4'-amino-3'-chlorophenyl) benzothiazole. The crude product was purified by chromatography on silica gel, eluting with ethyl acetate-hexane (2:3) to give a pale yellow powder (0.032 g, 36%%), m.p. 207.3-211.0° C.

reactant | 2-(4'-amino-3'-iodophenyl)benzothiazole | 0.35 mmol, 0.123 g | NC1=C(C=C(C=C1)C=1SC2=C(N1)C=CC=C2)I | C13H9IN2S
reactant | copper (I) cyanide | 0.7 mmol, 63 mg | [Cu]C#N
reactant | 2-(4'-amino-3'-chlorophenyl) benzothiazole | NC1=C(C=C(C=C1)C=1SC2=C(N1)C=CC=C2)Cl | C13H9ClN2S
solvent | DMF | CN(C)C=O | C3H7NO
product | 2-(4'-amino-3'-cyanophenyl)benzothiazole | NC1=C(C=C(C=C1)C=1SC2=C(N1)C=CC=C2)C#N | C14H9N3S
